US07727989B2
b) 6-(2-Chloropyrimidin-4-yl)-4-[6-tri-fluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-yl]-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one
6-Oxo-5-[6-tri-fluoromethyl-1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-1-(2-trimethylsilanylethoxymethyl)-1,6-dihydropyridazine-3-boronic acid, 2,4-di-chloropyrimidine, potassium fluoride and tris(dibenzylideneacetone)dipalladium(0) are dissolved in dry THF and degassed with argon for 10 minutes. Tri-tert-butyl-phosphonium tetrafluoroborate is added, and the reaction mixture is stirred at room temperature for 16 hours. LC-MS analysis shows complete conversion. The solvent is removed in a rotary evaporator, the residue is dissolved in DMF and the crude product is purified by preparative RP-HPLC (0-100% acetonitrile in water (+0.01% trifluoroacetic acid)). MS (ES+) m/z 653 (M+H).

reactant | 6-Oxo-5-[6-tri-fluoromethyl-1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-1-(2-trimethylsilanylethoxymethyl)-1,6-dihydropyridazine-3-boronic acid | O=C1C(=CC(=NN1COCC[Si](C)(C)C)B(O)O)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C(F)(F)F | C24H36BF3N4O5Si2
reactant | 2,4-di-chloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | potassium fluoride | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(2-Chloropyrimidin-4-yl)-4-[6-tri-fluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-yl]-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one | ClC1=NC=CC(=N1)C=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C(F)(F)F | C28H36ClF3N6O3Si2
